US08541455B2
To a solution of 1.52 g (5 mmol) of tert-butyl {(1R,3S)-3-[(benzyloxy)methyl]-cyclopentyl}carbamate in 20 mL of DCM are added, at 0° C., 5 mL (20 mmol) of a 4N solution of HCl in dioxane. The medium is then stirred for 12 hours at room temperature, and then concentrated under reduced pressure. The residue obtained is solidified in 20 mL of Et2O, filtered and dried under vacuum. 1 g of (1R,3S)-3-[(benzyloxy)methyl]cyclopentanamine hydrochloride is obtained in the form of a powder.

reactant | tert-butyl {(1R,3S)-3-[(benzyloxy)methyl]-cyclopentyl}carbamate | 5 mmol, 1.52 g | C(C1=CC=CC=C1)OC[C@@H]1C[C@@H](CC1)NC(OC(C)(C)C)=O | C18H27NO3
reactant | HCl | Cl | ClH
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
solvent | dioxane | O1CCOCC1 | C4H8O2
solvent | Et2O | 20 mL | CCOCC | C4H10O
product | (1R,3S)-3-[(benzyloxy)methyl]cyclopentanamine hydrochloride | 1 g, Yield=83% | Cl.C(C1=CC=CC=C1)OC[C@@H]1C[C@@H](CC1)N | InChI=1S/C13H19NO.ClH/c14-13-7-6-12(8-13)10-15-9-11-4-2-1-3-5-11;/h1-5,12-13H,6-10,14H2;1H/t12-,13+;/m0./s1
